US05859007
2-[3-(1H-Indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(2-methoxy-phenyl) acetamide
A mixture of 2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(2-methoxy-phenyl) acetamide, prepared as in Intermediate 73, (260 mg, 0.377 mmol) and 4N HCl in dioxane (2 mL) is stirred at RT for 2 h. Diethyl ether (40 mL) is added and the resultant mixture stirred vigorously for 20 min. The solids were allowed to settle and the solvent is decanted. This procedure is repeated three times and the final gum dried by concentration in vacuo. Recrystallisation from 5% methanol in ethyl acetate afforded the title compound (126 mg) as a white powdery solid, which exists as 3:2 mixture of rotamers (major rotamer recorded): 1H NMR (300 MHz, CDCl3) δ7.98 (t, 1H, J=8.0), 7.70 (m, 1H), 7.61 (s, 1H), 7.40-6.90 (m, 15H), 5.05 (m, 1H, J=6.9), 4.45 (d, 2H, J=16.4), 4.25 (d, 1H, J=17.5), 4.07 (d, 1H, J=16.4), 3.74 (m, 5H), 1.16 (m, 6H); Low resolution MS (FAB) m/e 588 (M+); Tr =27.29 min (RP-HPLC, 100% A to 100% C, 30 min).

reactant | 2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(2-methoxy-phenyl) acetamide | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=C(C=CC=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C40H41N5O6
reactant | HCl | 4N | Cl | ClH
reactant | Diethyl ether | 40 mL | C(C)OCC | C4H10O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-[3-(1H-Indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(2-methoxy-phenyl) acetamide | 126 mg | N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=C(C=CC=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C35H33N5O4
